US03931176
Into a flask equipped with a stirrer, heating mantle and Dean-Stark water separator is charged 7.2 g (0.30 mole) of a mixture of cis-and trans-2-p-chlorobenzoylcyclobutane carboxylic acid, 3.5g(0.033 mole) of 1-hydrazino-2-butanol and 100 ml. of toluene. The mixture is stirred and refluxed until the water layer in the Dean-Stark tube remains constant (ca. 5 hr). The solvent is removed in vacuo on a rotary evaporator, and the residue is dissolved in hot diethyl ether and allowed to cool to room temperature. The resultant solid is filtered off and yields 2-(p-chlorophenyl)-4-(2-hydroxybutyl) 3,4-diazabicyclo [4.2.0]-oct-2-ene-5-one (Isomer B;m.p. 133°-135°). The filtrate is further concentrated to give Isomer A (m.p. 115.5° - 119°C).

reactant | trans-2-p-chlorobenzoylcyclobutane carboxylic acid | ClC1=CC=C(C(=O)[C@H]2[C@@H](CC2)C(=O)O)C=C1 | C12H11ClO3
reactant | 1-hydrazino-2-butanol | 0.033 mole, 3.5g | N(N)CC(CC)O | C4H12N2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(p-chlorophenyl)-4-(2-hydroxybutyl) 3,4-diazabicyclo [4.2.0]-oct-2-ene-5-one | ClC1=CC=C(C=C1)C=1C2CCC2C(N(N1)CC(CC)O)=O | C16H19ClN2O2
